US08133995B2
Preparation of 1-[4-amino-5-(4-amino-3-fluorophenyl)-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-6-yl]ethanone
To a solution of CH2Cl2 (50 mL) was added of tert-butyl {4-[6-acetyl-4-amino-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2 fluorophenyl}-carbamate (291 mg, 0.60 mmol) followed by trifluoroacetic acid (5 mL). The solution was allowed to stir for 30 min at rt. Aq saturated NaHCO3 was added to the solution until bubbling stopped. Additionally CH2Cl2 was added and the solution was then transferred to a separatory funnel. The organic layer was isolated while the aqueous layer was back extracted with CH2Cl2 (2×25 mL). The combined organic layers were collected, dried (MgSO4), filtered, and concentrated to dryness yielding 214 mg of the above compound as a white solid (0.56 mmol, yield 93%). 1H-NMR (DMSO-d6) δ 7.95 (s, 1H), 7.08 (dd, J=1.7 Hz, 10.3 Hz, 1H), 6.92 (dd, J=1.8 Hz, 7.9 Hz, 1H), 6.86 (t, J=8.7 Hz, 1H), 5.47 (s, 2H), 4.05 (s, 2H), 3.49 (m, 4H), 2.41 (m, 4H), 2.06 (s, 3H); MS [M+H]+=385.1; LCMS RT=1.16 min.

reactant | tert-butyl {4-[6-acetyl-4-amino-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2 fluorophenyl}-carbamate | 0.60 mmol, 291 mg | C(C)(=O)C=1C(=C2C(=NC=NN2C1CN1CCOCC1)N)C1=CC(=C(C=C1)NC(OC(C)(C)C)=O)F | C24H29FN6O4
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-amino-5-(4-amino-3-fluorophenyl)-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-6-yl]ethanone | 0.56 mmol, 214 mg, yield 93% | NC1=NC=NN2C1=C(C(=C2CN2CCOCC2)C(C)=O)C2=CC(=C(C=C2)N)F | C19H21FN6O2
